US07361678B2
To a stirred solution of 4-fluoronitrobenzene (2.0 mmol) in anhydrous THF (5 mL) at 0° C., a 1 M solution of a potassium 4-fluoro-3-trifluoromethyl-phenoxide (2.2 mmol) in THF (may be generated by adding the corresponding alcohol to a 1 M solution of potassium t-butoxide in THF) was added dropwise and under a nitrogen stream, according to General Procedure L1. The reaction mixture was stirred at 0° C. until completion, as indicated by TLC or HPLC. The solvent was then removed in vacuuo and the reaction mixture was treated with cold H2O (15 mL), and extracted with EtOAc (2×15 mL). The combined organic layers were washed with brine and dried over sodium sulfate. Evaporation of the solvent in vacuuo afforded the desired 1-fluoro-4-(4-nitrophenoxy)-2-(trifluoromethyl)benzene. The crude product could be used directly for further transformation.

reactant | 4-fluoronitrobenzene | 2.0 mmol | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | potassium 4-fluoro-3-trifluoromethyl-phenoxide | 2.2 mmol | FC1=C(C=C([O-])C=C1)C(F)(F)F.[K+]
reactant | potassium t-butoxide | CC(C)([O-])C.[K+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-fluoro-4-(4-nitrophenoxy)-2-(trifluoromethyl)benzene | FC1=C(C=C(C=C1)OC1=CC=C(C=C1)[N+](=O)[O-])C(F)(F)F | C13H7F4NO3
